US04075225
A solution of 9amino-6,11-dihydro-5H-pyrrolo-[2,1-b][3]benzazepin-11-one in triethyl orthoformate (2.14 g.; 10 mmoles in 80 ml) is refluxed for 5 hours. The volatiles are removed under vacuum and the residue dissolved in 100 ml. of absolute ethanol is stirred in an ice bath as sodium borohydride (0.88 g.; 0.024 moles) is added over a period of 10 minutes. The mixture is stirred for a period of 2 hours. After concentration of the ethanol, the residue is dissolved in ethyl acetate, washed with water, dried over Na2SO4 and concentrated to dryness to yield 9-methylamino -6,11 -dihydro-5H-pyrrolo-[2,1-b][3]benzazepin-11-one.

reactant | 9amino-6,11-dihydro-5H-pyrrolo-[2,1-b][3]benzazepin-11-one | NC1=CC2=C(CCN3C(C2=O)=CC=C3)C=C1 | C13H12N2O
reactant | triethyl orthoformate | 10 mmoles, 80 ml, 2.14 g | C(OCC)(OCC)OCC | C7H16O3
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | 0.024 moles, 0.88 g | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-methylamino -6,11 -dihydro-5H-pyrrolo-[2,1-b][3]benzazepin-11-one | CNC1=CC2=C(CCN3C(C2=O)=CC=C3)C=C1 | C14H14N2O
